US06762180B1
(8) 3-Z-[1-(4-(dimethylaminomethyl)-anilino)-1-phenyl-methylene]-6-[(2-dimethylamino-ethoxy)-carbonyl]-2-indolinone
Prepared from 3-Z-[1-(4-(dimethylaminomethyl)-anilino)-1-phenyl-methylene]-6-carboxy-2-indolinone and 2-dimethylaminoethanol aniline Rf value: 0.5 (silica gel, methylene chloride/methanol=5:2) C29H32N4O3

reactant | 3-Z-[1-(4-(dimethylaminomethyl)-anilino)-1-phenyl-methylene]-6-carboxy-2-indolinone | CN(C)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)O)=O)C=C1 | C25H23N3O3
reactant | 2-dimethylaminoethanol aniline | NC1=CC=CC=C1.CN(CCO)C
product | 3-Z-[1-(4-(dimethylaminomethyl)-anilino)-1-phenyl-methylene]-6-[(2-dimethylamino-ethoxy)-carbonyl]-2-indolinone | CN(C)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OCCN(C)C)=O)C=C1 | C29H32N4O3
